US06297258B1
N-[4-(3-Chloro-4-fluoroanilino)-3-cyano-7-(4-methyl-1-piperazinyl)-6-quinolinyl]-2-butynamide
To a stirred solution of 2-butynoic acid (0.25 g, 3.0 mmol) in 1.5 ml of DCM at 0° was added DCC (0.21 g, 1.0 mmol). After 15 m the mixture was warmed to 25°, recooled to 0°, and treated with 6-amino-4-(3-chloro-4-fluroanilino)-7-(4-methyl-1-piperazinyl)-3-quinolinecarbonitrile (0.21 g, 0.50 mmol) followed by 0.5 ml DCM rinse. The resulting mixture was stirred at 25° for 18 h and filtered to remove dicyclohexyl urea. The filtrate was partitioned with water which contained potassium carbonate (0.4 g, 3 mmol). The organic layer was washed with water, dried, and concentrated. The residue was passed as a solution in DCM onto a pad of silica gel. The product was eluted with 50:2:1 acetone-MeOH-TEA and concentrated to give 0.165 g amorphous solid; ms 477.2 (M+H)+, 239.1 (M+2H)+2.

reactant | 2-butynoic acid | 3.0 mmol, 0.25 g | C(C#CC)(=O)O | C4H4O2
reactant | DCC | 1.0 mmol, 0.21 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amino-4-(3-chloro-4-fluroanilino)-7-(4-methyl-1-piperazinyl)-3-quinolinecarbonitrile | 0.50 mmol, 0.21 g | NC=1C=C2C(=C(C=NC2=CC1N1CCN(CC1)C)C#N)NC1=CC(=C(C=C1)F)Cl | C21H20ClFN6
reactant | potassium carbonate | 3 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(3-Chloro-4-fluoroanilino)-3-cyano-7-(4-methyl-1-piperazinyl)-6-quinolinyl]-2-butynamide | 0.165 g | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(C#CC)=O)N2CCN(CC2)C)C#N)C=CC1F | C25H22ClFN6O
